US08227481B2
2-(4-Bromo-2-methyl-phenyl)-1-oxo-2,9-diaza-spiro[5.5]undecane-9-carboxylic acid tert-butyl ester
4-[3-(4-Bromo-2-methyl-phenylamino)-propyl]-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (3.78 g, 7.81 mmol, 1 eq) was dissolved in THF (80 mL). A 1M solution of NaOt-Bu in THF (7.8 mL, 7.8 mmol, 1 eq) was added and the reaction mixture was stirred for 2 h at rt. The reaction mixture was stirred for 48 h, quenched with 250 mL of water, transferred to a separatory funnel and extracted with dichloromethane (2×150 mL). The combined organics were dried over Na2SO4 and purified by column chromatography on silica gel (200 g column, 50% EtOAc in heptanes; 50 mL/min). This gave 2.49 g (73%) of the title compound as a beige gum.

reactant | 4-[3-(4-Bromo-2-methyl-phenylamino)-propyl]-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 7.81 mmol, 3.78 g, 1 eq | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCCNC1=C(C=C(C=C1)Br)C | C23H35BrN2O4
reactant | NaOt-Bu | CC(C)(C)[O-].[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 7.8 mmol, 7.8 mL, 1 eq | C1CCOC1 | C4H8O
product | 2-(4-Bromo-2-methyl-phenyl)-1-oxo-2,9-diaza-spiro[5.5]undecane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CCCN(C2=O)C2=C(C=C(C=C2)Br)C)CC1 | C21H29BrN2O3
